US06413981B1
6,7-Dihydro-6-(2-fluoro-4-nitrophenyl)-5H-pyrrolo[3,4-b]pyridine:
To 6,7-dihydro-5H-pyrrolo[3,4-b]pyridine dihydrochloride salt (as described by Petersen, et al. (Bayer) EP0520277A2)(42.8 g, 222 mmols) in DMF (1.2 L) was added 2,4-difluoronitrobenzene (25 mL, 224 mmols). The mixture was heated to 60° C. and DIPEA (195 mL, 1.12 mols) was added dropwise from an addition funnel over 2 hrs. After heating overnight the reaction mixture was cooled to rt, poured into water (3 L), filtered and dried in a vacuum oven (50° C.) to provide a yellow-green solid (53.8 g, 94% yield). MS (M+1)=260 m/z.

reactant | 6,7-dihydro-5H-pyrrolo[3,4-b]pyridine dihydrochloride salt | 222 mmols, 42.8 g | Cl.Cl.N1=C2C(=CC=C1)CNC2
reactant | 2,4-difluoronitrobenzene | 224 mmols, 25 mL | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | DIPEA | 1.12 mols, 195 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 3 L | O | H2O
reactant | DMF | 1.2 L | CN(C)C=O | C3H7NO
product | 6,7-Dihydro-6-(2-fluoro-4-nitrophenyl)-5H-pyrrolo[3,4-b]pyridine | 53.8 g, 94% yield | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CC2=NC=CC=C2C1 | C13H10FN3O2
